US07495007B2
To a solution of E/Z-3-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-benzylidene]-6-chloro-1,3-dihydro-indol-2-one (9.6 g, 22 mmol) in dichloromethane (100 mL) at r.t was added di-tert-butyl-dicarbonate (5.8 g, 27 mmol), followed by the addition of 4-dimethylaminopyridine (0.27 g, 2 mmol). The reaction mixture was stirred at r.t. for 0.5 h, then washed with 0.5N HCl aqueous solution, dried and concentrated to give E/Z-3-[5-Bromo-2-(2,2,2-trifluoro-ethoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow oil. (11 g)

reactant | Z-3-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-benzylidene]-6-chloro-1,3-dihydro-indol-2-one | 22 mmol, 9.6 g | BrC=1C=CC(=C(\C=C\2/C(NC3=CC(=CC=C23)Cl)=O)C1)OCC(F)(F)F | C17H10BrClF3NO2
reactant | di-tert-butyl-dicarbonate | 27 mmol, 5.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2 mmol, 0.27 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[5-Bromo-2-(2,2,2-trifluoro-ethoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Br)OCC(F)(F)F)=O | C22H18BrClF3NO4
